Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Chest discomfort
 
Major Surgical or Invasive Procedure:
___ - Redo Sternotomy, Mitral Valve Replacement 25mm St. 
___ Valve
 
History of Present Illness:
___ year old man with known coronary artery disease disease/MR, 
status post coronary artery bypass graftx1/MVr(#28mm ring)with 
___ in ___,  PTCA with RCA stent, Hypertension, and 
dyslipidemia who presented to the ED at an OSH with unstable 
angina. He was cathed at OSH- results currently unavailable. 
Transferred to ___ for surgical evaluation. Of note, he had 
two recent admissions to an OSH in ___ for his idiopathic 
pulmonary fibrosis. He was treated for PNA with antibiotics, 
discharged to home on oxygen, and is followed by a 
pulmonologist, ___.
 
Past Medical History:
___ s/p Mitral valve repair with a 28-mm Physio annuloplasty 
ring/Coronary artery bypass grafting x1 with reverse saphenous 
vein graft to the right coronary artery PTCA and stenting of RCA 
___

Hypertension
Dyslipidemia
Schizoaffective disorder
Benign Prostatic Hypertrophy
Idiopathic pulmonary fibrosis
Gastroesophageal reflux disease
s/p TURP
s/p Cholecystectomy
s/p Appendectomy
 
Social History:
___
Family History:
+ CAD
 
Physical Exam:
Pulse: 64  Resp:18  O2 sat: 96%RA
B/P  Right:124/70    Left: 
Height:5'6"     Weight:203 LBs

General:A&Ox3/NAD
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI []
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur IV/VI SEM
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema Varicosities:
None []
Neuro: Grossly intact
Pulses:
Femoral      Right:   Left:
DP           Right: 2+  Left:2+
___           Right:   Left:
Radial       Right: 2+  Left:2+

Carotid Bruit-none, pulses Right: 2+   Left:2+
 
Pertinent Results:
___ Carotid Ultrasound: 
Right ICA stenosis 40-59%. Left ICA stenosis 70-79%. 

___ TEE: 
The left atrium is moderately dilated. No atrial septal defect 
is seen by 2D or color Doppler. Overall left ventricular 
systolic function is normal (LVEF>55%). There are complex (>4mm) 
atheroma in the descending thoracic aorta. The aortic valve 
leaflets (3) are mildly thickened. Trace aortic regurgitation is 
seen. A mitral valve annuloplasty ring is present. Severe (4+) 
mitral regurgitation is seen with a primarily eccentric jet 
directed toward the septum. The tricuspid valve leaflets are 
mildly thickened. There is no pericardial effusion. IMPRESSION: 
Well-seated mitral annuloplasty with eccentric severe (4+) 
mitral regurgitation. Complex but non-mobile atheroma in the 
descending thoracic aorta.

___ WBC-12.3* RBC-3.35* Hgb-10.5* Hct-30.6*  RDW-14.8 Plt 
___
___ WBC-10.9 RBC-2.89* Hgb-8.9* Hct-27.0* RDW-15.1 Plt 
___
___ WBC-15.7* RBC-3.01* Hgb-9.2* Hct-27.5* RDW-15.5 Plt 
___
___ WBC-17.2*# RBC-3.15*# Hgb-9.7* Hct-28.6* RDW-15.5 Plt 
___
___ ___ PTT-37.8* ___
___ ___
___ ___ PTT-63.9* ___
___ ___ PTT-91.4* ___
___ ___ PTT-70.7* ___
___ ___
___ Glucose-93 UreaN-19 Creat-0.8 Na-134 K-3.8 Cl-94* 
HCO3-29 AnGap-15
___ Glucose-145* UreaN-24* Creat-0.9 Na-136 K-4.4 Cl-98 
HCO3-29 
___ Glucose-121* UreaN-18 Creat-1.0 Na-134 K-4.2 Cl-98 
HCO3-31 AnGap-9
___ Glucose-121* UreaN-12 Creat-1.0 Na-134 K-4.1 Cl-97 
HCO3-30 
___ Glucose-95 UreaN-13 Creat-0.9 Na-136 K-4.6 Cl-105 
HCO3-26 AnGap-10
___ Calcium-8.7 Phos-3.0 Mg-2.5
 
Brief Hospital Course:
Mr. ___ was admitted to the ___ on ___ for further 
management of his mitral valve disease. He was worked-up in the 
usual preoperative manner including a carotid duplex ultrasound 
which showed a right internal artery stenosis of 40-59% and a 
left stenosis of 70-79%. He is edentulous and no dental 
clearnence was required for surgery. Pulmonary function testing 
was also obtained which showed an FEV1 of 57% which improved to 
70% post bronchodilation therapy. Heparin was continued for 
anticoagulation given his history of coronary artery disease and 
recent stent. A transesophageal echocardiogram was performed as 
well in preparation for surgery. On ___, Mr. ___ was 
taken to the operating room where he underwent a redo sternotomy 
with replacement of his mitral valve with a mechanical 
prosthesis. Please see operative note for details. 
Postoperatively he was take to the intensive care unit for 
invasive monitoring in stable condition. Within 24 hours he was 
weaned from sedation, awoke neurologically intact and extubated. 
Transferred to the floor on POD #2 to begin increasing his 
activity level. Gently diuresed toward his preop weight. 
On POD#3 he was started on IV heparin with bridge to coumadin 
for mechanical mitral valve. Coumadin was dosed for goal INR 
between 2.5 and 3.5. The remainder of his postoperative course 
was uneventful. He was evaluated and treated by physical therpay 
for strength and conditioning and was cleared for discharge to 
home on POD#7. Prior to discharge, coumadin followup was 
arranged with Drs. ___. INR at discharge was 3.5. 
All surgical incisions were clean, dry and intact.

 
Medications on Admission:
Lopressor ? dose
Plavix 75mg daily
ASA 325mg daily
Lasix 20mg daily
K-Dur
Lipitor
Omeprazole 20mg daily
Lisinopril 10mg daily
Perphenazine ? dose
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) for 1 months.
Disp:*60 Capsule(s)* Refills:*0*
2. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*90 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
4. Perphenazine 2 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).
Disp:*90 Tablet(s)* Refills:*2*
5. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
6. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
7. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
8. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
9. Potassium Chloride 10 mEq Tab Sust.Rel. Particle/Crystal Sig: 
One (1) Tab Sust.Rel. Particle/Crystal PO once a day.
Disp:*30 Tab Sust.Rel. Particle/Crystal(s)* Refills:*0*
10. Ipratropium Bromide 17 mcg/Actuation HFA Aerosol Inhaler 
Sig: Two (2) Puff Inhalation QID (4 times a day).
___ MDI* Refills:*2*
11. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).
___ MDI* Refills:*2*
12. Proventil HFA 90 mcg/Actuation HFA Aerosol Inhaler Sig: Two 
(2) puff Inhalation every six (6) hours.
___ MDI* Refills:*2*
13. Coumadin 2.5 mg Tablet Sig: As instructed by Dr. ___ 
___ Tablet PO once a day: Take as directed for goal INR 
2.5-3.5. Dr. ___ will instruct y=on how much to take 
on ___ and thereafter.
Disp:*50 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Mitral Regurgitation s/p Redo-Sternotomy, Mitral Valve 
Replacement
Past medical history:
___ s/p Mitral valve repair with a 28-mm Physio annuloplasty 
ring/Coronary artery bypass grafting x1 with reverse saphenous 
vein graft to the right coronary artery PTCA and stenting of RCA 
___

Hypertension
Dyslipidemia
Schizoaffective disorder
Benign Prostatic Hypertrophy
Idiopathic pulmonary fibrosis
Gastroesophageal reflux disease
s/p TURP
s/p Cholecystectomy
s/p Appendectomy
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with  steady gait

Incisional pain managed with Tramadol

Incisions: 

Sternal - healing well, no erythema or drainage 
Edema - Trace bilateral lower extremity edema

 
Discharge Instructions:
1) Please shower daily including washing incisions gently with 
mild soap, no baths or swimming until cleared by surgeon. Look 
at your incisions daily for redness or drainage
2) Please NO lotions, cream, powder, or ointments to incisions 
3) Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart 
4) No driving for approximately one month until follow up with 
surgeon
5) No lifting more than 10 pounds for 10 weeks
6) Coumadin will be followed by Dr. ___. Your goal INR is 
2.5-3.5 for a mechanical mitral valve. Take coumadin as 
instructed. Please note your dose may change based on your blood 
results. You have been discharged with 2.5mg tablets and your 
likely daily dose will be 5mg daily. Please do not take you 
coumadin until seen and instrcuted by Dr. ___ 
___ on ___. You have been scheduled for an initial visit 
on ___ at 11:15 AM with ___, NP 
for blood work and to establish coumadin care. Please bring your 
"Heart" USB port. Do not take your coumadin dose until 
instructed by her. 
7) You will resume your preoperative lasix dose of 20mg daily 
with potassium 10mEq daily. Monitor your weight and lower 
extremities for swelling. Contact Dr. ___ Dr. ___ 
with lower extremity swelling (edema) or increased shortness of 
breath.
8) Please call with any questions or concerns. 

Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___